US06875883B2
2,4-Dimethoxybenzoic acid is reacted with hydroxylamine to form 2,4-dimethoxybenzaldoxime. 2,4-Dimethoxybenzaldoxime is reacted with diphosphorus pentoxide to form 2,4-dimethoxybenzonitrile. 2,4-Dimethoxybenzonitrile is reacted with boron trichloride to form 2,4-dihydroxybenzonitrile.

reactant | 2,4-Dimethoxybenzonitrile | COC1=C(C#N)C=CC(=C1)OC | C9H9NO2
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
product | 2,4-dihydroxybenzonitrile | OC1=C(C#N)C=CC(=C1)O | C7H5NO2
